US04652653
16.8 g of finely powdered 2-mercaptobenzothiazole are suspended in 150 ml of 70% sulfuric acid and 16.6 g of dimethyl itaconate are added dropwise at 0°-10° in the course of half an hour, with stirring. After further 16 hours at 0°-10°, the reaction mixture is poured into ice water and extracted with ethyl acetate. The organic phase is separated, dried and the solvent is evapourated. The solid residue is recristallied from cyclohexane yielding dimethyl 3-(benzothiazol-2-ylthio)-propane-1,2-dicarboxylate, melting at 46°-47°.

reactant | 2-mercaptobenzothiazole | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | dimethyl itaconate | 16.6 g | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
solvent | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | dimethyl 3-(benzothiazol-2-ylthio)-propane-1,2-dicarboxylate | S1C(=NC2=C1C=CC=C2)SCC(CC(=O)OC)C(=O)OC | C14H15NO4S2
